US20010027196A1
To a stirred suspension of 500 mg (2.04 mmol) 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile in 5 ml DME were added 192 mg (2.04 mmol) phenol and 0.31 ml (2.04 mmol) DBU and stirring continued for 16 hours at room temperature. 15 ml water was then added and the resulting crystals collected by filtration and triturated in hexane to afforded 400 mg (76%) 2-amino-4-methylsulfanyl-6-phenoxy-pyrimidine-5-carbonitrile as a light yellow crystalline solid. EI-MS m/e (%): 258 (M+, 100).

reactant | 2-amino-4-bromo-6-methylsulfanyl-pyrimidine-5-carbonitrile | 2.04 mmol, 500 mg | NC1=NC(=C(C(=N1)Br)C#N)SC | C6H5BrN4S
reactant | phenol | 2.04 mmol, 192 mg | C1(=CC=CC=C1)O | C6H6O
reactant | DBU | 2.04 mmol, 0.31 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | 15 ml | O | H2O
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 2-amino-4-methylsulfanyl-6-phenoxy-pyrimidine-5-carbonitrile | 400 mg, 76% | NC1=NC(=C(C(=N1)SC)C#N)OC1=CC=CC=C1 | C12H10N4OS
